US06849648B2
2-Nitro-benzenesulfonyl chloride (8.55 g, 38.6 mmol) and 4-aminomethyl-benzoic acid tert-butyl ester (8.0 g, 38.6 mmol) were mixed in 400 mL of dichloromethane. Triethylamine (10.8 mL, 77.2 mmol) was added, and the resulting mixture was stirred at room temperature for 16 hours. The reaction was partitioned between 1M HCl and dichloromethane. The organic layer was dried (magnesium sulfate), filtered, and rotary evaporated to give 14.46 g (95%) of 4-[(2-nitro-benzenesulfonylamino)-methyl]-benzoic acid tert-butyl ester as an off-white solid. 1H-NMR (CDCl3); δ 8.00 (dd, 1H), 7.84 (m, 3H), 7.67 (m, 2H), 7.27 (dd, 2H), 5.76 (bt, 1H), 4.36 (d, 2H), and 1.57 (s, 9H). MS: M+=392.1 Da Step (2): Synthesis of 4-[(2-Amino-benzenesulfonylamino)-methyl]-benzoic acid tert-butyl ester

reactant | 2-Nitro-benzenesulfonyl chloride | 38.6 mmol, 8.55 g | [N+](=O)([O-])C1=C(C=CC=C1)S(=O)(=O)Cl | C6H4ClNO4S
reactant | 4-aminomethyl-benzoic acid tert-butyl ester | 38.6 mmol, 8.0 g | C(C)(C)(C)OC(C1=CC=C(C=C1)CN)=O | C12H17NO2
reactant | Triethylamine | 77.2 mmol, 10.8 mL | C(C)N(CC)CC | C6H15N
solvent | dichloromethane | 400 mL | ClCCl | CH2Cl2
product | 4-[(2-nitro-benzenesulfonylamino)-methyl]-benzoic acid tert-butyl ester | 14.46 g, 95% | C(C)(C)(C)OC(C1=CC=C(C=C1)CNS(=O)(=O)C1=C(C=CC=C1)[N+](=O)[O-])=O | C18H20N2O6S
